US04855442
5-Trifluoromethyl-3-hydroxy-1-methylpyrazole
A flask was charged with 6 kg of ether and 6164.2 g (33.5 mol) of ethyl 4,4,4-trifluoroacetoacetate. With stirring 1542.4 g (33.5 mol) methylhydrazine was added. The temperature was maintained at about 24° C. during the addition. After one additional hour of stirring the reaction was complete. Solvent was stripped to remove most of the ether and the residue was then slurried in 12 1 of chloroform with vigorous stirring. To the slurry was added 50 ml of concentrated sulfuric acid and the mixture was stirred overnight. An additional 100 ml of sulfuric acid was added and the slurry was washed once with 3 1 of water and 5 times with 3 1 of 10% sodium bicarbonate to remove the 5-hydroxy isomer and twice with 3 1 of water. The aqueous layers and undissolved crystals were twice extracted sequentially with 4 1 of chloroform. Chloroform was stripped on a rotary evaporator at 40° C. under vacuum to yield 1405.9 g (25.3% yield) of a solid, m.p. 130°-131° C.

reactant | ethyl 4,4,4-trifluoroacetoacetate | 33.5 mol, 6164.2 g | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
reactant | methylhydrazine | 33.5 mol, 1542.4 g | CNN | CH6N2
solvent | ether | 6 kg | CCOCC | C4H10O
product | 5-Trifluoromethyl-3-hydroxy-1-methylpyrazole | 1405.9 g, 25.3% yield | FC(C1=CC(=NN1C)O)(F)F | C5H5F3N2O
